US08372981B2
6,7-Dimethoxy-4-(5-indolinyloxy)quinoline
After dissolving 6,7-dimethoxy-4-(5-indolyloxy)quinoline (30 mg, 0.0780 mmol, described in WO9717329, p. 52) in trifluoroacetic acid (0.9 ml), triethylsilane (45 ml, 0.2808 mmol, 3.0 eqM) was added while cooling on ice, and the mixture was stirred for 4 hours and 30 minutes at room temperature under a nitrogen atmosphere. After cooling, the reaction solution was diluted with ethyl acetate, neutralized with saturated bicarbonate water, extracted with ethyl acetate, washed with saturated saline and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/ethanol system) to obtain the title compound (20 mg, 0.0620 mmol, 66.28%) as light yellow crystals.

reactant | 6,7-dimethoxy-4-(5-indolyloxy)quinoline | 0.0780 mmol, 30 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CNC2=CC1 | C19H16N2O3
reactant | triethylsilane | 0.2808 mmol, 45 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | bicarbonate water | O.C(O)(O)=O
solvent | trifluoroacetic acid | 0.9 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-Dimethoxy-4-(5-indolinyloxy)quinoline | 0.0620 mmol, 20 mg, 66.28% | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2CCNC2=CC1 | C19H18N2O3
